US06162818
To a solution of 3-cyano-6-isothiocyanato-7-methylindole (0.152 g, 0.713 mmol) in methylene chloride (30 mL) is added ethylenediamine (0.286 mL, 4.28 mmol). The milky white mixture is stirred for 30 minutes followed by removal of the volatile organics by rotary evaporation. The residue is taken up in 10% methanol/methylene chloride, causing a precipitate to form. This mixture is filtered (solid is saved), and the filtrate is directly applied to a silica gel column. The mixture is separated using 15% methanol (ammonium hydroxide treated)/methylene chloride as eluent. The product containing fractions are combined with the previous precipitate and the solvents removed by rotary evaporation to yield 0.214 g of slightly impure 3-cyano-6-[N'-(2-aminoethyl)thioureido]-7-methylindole as a white solid.

reactant | 3-cyano-6-isothiocyanato-7-methylindole | 0.713 mmol, 0.152 g | C(#N)C1=CNC2=C(C(=CC=C12)N=C=S)C | C11H7N3S
reactant | ethylenediamine | 4.28 mmol, 0.286 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-6-[N'-(2-aminoethyl)thioureido]-7-methylindole | C(#N)C1=CNC2=C(C(=CC=C12)NC(=S)NCCN)C | C13H15N5S
